US04910077
Example 1 was repeated except that the copper foil was pretreated with a silane solution prepared as follows. 8.8 g. of N-2-amino-ethyl-3-aminopropyltrimethoxysilane (a product of Petrarch Systems, Inc.) and 5.0 g. of benzyl chloride were charged in a reaction vessel to produce 3-(N-Benzyl-2-aminoethylamino)-propyltrimethoxysilane hydrochloride. A 1% solution of this silane in methanol was prepared, the copper foil dipped therein for 30 minutes followed by air drying and a 5-minute bake at 105° C. The copper foil was laminated to similar prepregs (2-ply, 6.12 g, 59.8% polymer uptake) as described in Example 1 and cured at 180° to 220° C. for 30 minutes under psi pressure. A 2-ply 3"×6" laminate was obtained.

reactant | silane | [SiH4] | H4Si
reactant | N-2-amino-ethyl-3-aminopropyltrimethoxysilane | NCCNCCC[Si](OC)(OC)OC | C8H22N2O3Si
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
catalyst | copper | [Cu] | Cu
product | 3-(N-Benzyl-2-aminoethylamino)-propyltrimethoxysilane hydrochloride | Cl.C(C1=CC=CC=C1)N(CCC[Si](OC)(OC)OC)CCN | InChI=1S/C15H28N2O3Si.ClH/c1-18-21(19-2,20-3)13-7-11-17(12-10-16)14-15-8-5-4-6-9-15;/h4-6,8-9H,7,10-14,16H2,1-3H3;1H
